US06630600B1
(b) 4-(2-Hydroxyphenyl)butanol
4-(2-Benzyloxyphenyl)-3-buten-1-ol was hydrogenated in ethanol using the same method as in Example 20b.

reactant | 4-(2-Benzyloxyphenyl)-3-buten-1-ol | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=CCCO | C17H18O2
solvent | ethanol | C(C)O | C2H6O
product | 4-(2-Hydroxyphenyl)butanol | OC1=C(C=CC=C1)CCCCO | C10H14O2
